US06770597B2
Step 2 Preparation of 2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl)-4-fluoro-benzoyl Chloride
To a stirred solution of 2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl)-4-fluoro-benzoic acid (4 g) in chloroform (100 ml) were added oxalyl chloride (1.8 g) and a few drops of N,N-dimethylformamide (DMF) at ambient temperature. The resulting mixture was stirred for three hours at same temperature and then filtered through Celite. The filtrate was concentrated under reduced pressure to give the titled compound (4.3 g) as a brown solid.

reactant | 2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl)-4-fluoro-benzoic acid | 4 g | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H7ClF4N2O4
reactant | oxalyl chloride | 1.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | 2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl)-4-fluoro-benzoyl Chloride | 4.3 g | ClC1=C(C(=O)Cl)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H6Cl2F4N2O3
